US04440927
Preparation of (2S,4R,6S)-1-(4'-Fluoro-3,3',5-trimethyl[1,1'-biphenyl]-2-yl)-2-(4-benzyloxy-3,4,5,6-tetrahydro-2-methoxy-2H-pyran-6-yl)-1-ethyl (phenyl) sulfoxide
Sodium hydride (0.030 g, 0.63 mmoles) was suspended in dry DMSO (0.5 mL) under nitrogen and heated at 60°-70° C. for 1 hour until hydrogen evolution ceased and then cooled to room temperature. A solution of (4'-fluoro-3,3',5-trimethyl[1,1'-biphenyl]-2-yl)methyl(phenyl)sulfoxide (0.211 g, 0.60 mmoles) in dry DMSO (0.6 mL) was added by syringe through a septum and stirring was continued for 10 minutes. A solution of (2S,4R,6S)-4-benzyloxy-3,4,5,6-tetrahydro-6-iodomethyl-2-methoxy-2H-pyran (0.109 g, 0.3 mmole) in dry DMSO (0.6 mL) was added dropwise while the reaction mixture was stirred and cooled in an ice-water bath. After the addition was complete, the ice bath was removed and the reaction mixture was stirred at ambient temperature for one hour. The reaction mixture was then partitioned between ether (50 mL) and water (25 mL). The aqueous layer was extracted with ether and the combined ether extracts, washed with water (25 mL), dried (MgSO4), filtered and evaporated in vacuo to leave 0.3 g of crude product mixture. Flash chromatography was carried out on a 20×150 mm column eluting with 2% acetone in methylene chloride (20 fractions of 10 mL each), then 5% acetone in methylene chloride (30 fractions of 10 mL each). The fractions containing the desired isomers of the product were combined and evaporated in vacuo to leave 68.9 mg of product as an isomer mixture (38% based on the synthon). This product is used without further purification in the next step.

reactant | Sodium hydride | 0.63 mmoles, 0.030 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | (4'-fluoro-3,3',5-trimethyl[1,1'-biphenyl]-2-yl)methyl(phenyl)sulfoxide | 0.60 mmoles, 0.211 g | FC1=C(C=C(C=C1)C1=C(C(=CC(=C1)C)C)CC1=C(C=CC=C1)S(=O)C1=C(C=CC=C1)CC1=C(C=C(C=C1C)C)C1=CC(=C(C=C1)F)C)C | C44H40F2OS
reactant | (2S,4R,6S)-4-benzyloxy-3,4,5,6-tetrahydro-6-iodomethyl-2-methoxy-2H-pyran | 0.3 mmole, 0.109 g | C(C1=CC=CC=C1)O[C@H]1C[C@H](O[C@@H](C1)CI)OC | C14H19IO3
reactant | DMSO | 0.5 mL | CS(=O)C | C2H6OS
reactant | DMSO | 0.6 mL | CS(=O)C | C2H6OS
reactant | DMSO | 0.6 mL | CS(=O)C | C2H6OS
product | (2S,4R,6S)-1-(4'-Fluoro-3,3',5-trimethyl[1,1'-biphenyl]-2-yl)-2-(4-benzyloxy-3,4,5,6-tetrahydro-2-methoxy-2H-pyran-6-yl)-1-ethyl (phenyl) sulfoxide | 68.9 mg | C1(=CC=CC=C1)S(=O)C(C[C@@H]1C[C@H](C[C@H](O1)OC)OCC1=CC=CC=C1)C1=C(C=C(C=C1C)C)C1=CC(=C(C=C1)F)C | C36H39FO4S
